### PR TITLE
Develop dual calculus for rigid monoidal categories

### PR DESCRIPTION
**Pull request by LionOfJewdah**
## Summary

Develop the core calculus of dual objects and morphisms in rigid monoidal
categories.

This adds:

- cups, caps, transposes, mates, and dual morphisms
- uniqueness, naturality, snake, cancellation, identity, and composition laws
- conversion between left and right rigidity using symmetry
- agreement of the induced left and right dual morphisms
- left- and right-rigid projections from a compact-closed structure
- supporting monoidal reasoning laws

## Motivation

The immediate goal is the canonical Joyal–Street–Verity trace of a compact
closed category. Its cap–cup construction requires a practical calculus for
moving between dual objects, transposed morphisms, cups, caps, and the two
handed forms of rigidity.

This PR establishes that foundational calculus. Tensor-product dual coherence
and the canonical symmetric double-dual isomorphism are separated into the
stacked `feat/rigid-tensor-and-double-dual-coherence` branch, reducing the scope
of this review without removing any results.

The subsequent branches use this infrastructure to formalize the compact-closed
trace of [Joyal–Street–Verity 1996](https://doi.org/10.1017/S0305004100074338),
its uniqueness following
[Hasegawa 2009](https://doi.org/10.1017/S0960129508007184), and the
traced star-autonomous recognition theorem of
[Hajgató–Hasegawa 2013](https://doi.org/10.70930/tac/ir3wltz0).

### CODE REVIEW

**Comment by LionOfJewdah** [comment]
I updated this to remove a lot of scaffolding and explicit implicits.

Sadly, `Categories.Category.Monoidal.Rigid.Functor.Symmetric` takes like 2 and a half minutes to typecheck on my computer which seems really wrong.... I thought the strong equivalence of symmetric monoidal categories between a compact closed category and its opposite was worth having, but maybe not if this is the price.

I could also investigate the cost of "equivalence of categories" separate from "strict monoidal functor" and "respects the symmetric braiding"

**Comment by LionOfJewdah** [comment]
Adding `--lossy-unification` took a few typechecks down from ~90-210 seconds to 2-4 each fwiw

File: src/Categories/Category/Monoidal/CompactClosed/Properties.agda [hunk 1]
```diff
@@ -0,0 +1,50 @@
+{-# OPTIONS --without-K --safe --lossy-unification #-}
+-- --lossy-unification makes this typecheck in ~3s instead of ~210s
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/CompactClosed/Properties.agda]: Often the issue is that Agda does eta-expansion too eagerly, and then has huge records to reconstruct. So if you instead give some implicits explicitly, the problem becomes one of checking instead of inferring, and it becomes much faster. I would comment out stuff one by one to see which one is the biggest culprit, and then start inserting implicits.

File: src/Categories/Category/Monoidal/CompactClosed/Properties.agda [hunk 2]
```diff
@@ -0,0 +1,50 @@
...
+open import Categories.Category.Monoidal.Rigid.Properties M using (rigidʳ-Op)
+open import Categories.Category.Monoidal.Symmetric.Properties using (symmetric-Op)
+import Categories.Category.Monoidal.CompactClosed monoidal-Op as OpCompactClosed
+
+open CompactClosed K
+open import Categories.Category.Monoidal.Rigid.Dual M leftRigid using (dualFunctor)
+open import Categories.Functor using (Functor; _∘F_) renaming (id to idF)
+open import Categories.NaturalTransformation.NaturalIsomorphism using (_≃_)
+
+symmetricMonoidalCategory : SymmetricMonoidalCategory _ _ _
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/CompactClosed/Properties.agda]: even here, it's worth putting in the explicit levels!

File: src/Categories/Category/Monoidal/Rigid/Functor/Symmetric.agda [hunk 3]
```diff
@@ -0,0 +1,114 @@
+{-# OPTIONS --without-K --safe --lossy-unification #-}
+-- --lossy-unification makes this typecheck in ~4s instead of ~150s
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Rigid/Functor/Symmetric.agda]: See previous advice on this

File: src/Categories/Category/Monoidal/Rigid/Dual.agda [hunk 4]
```diff
@@ -0,0 +1,444 @@
...
+open import Categories.Category.Core using (Category)
+open import Categories.Category.Monoidal.Core using (Monoidal)
+open import Categories.Category.Monoidal.Rigid using (LeftRigid)
+open import Categories.Functor using (Functor)
+
+module Categories.Category.Monoidal.Rigid.Dual
+    {o ℓ e} {C : Category o ℓ e}
+    (M : Monoidal C) (L : LeftRigid M) where
+
+open Category C
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Rigid/Dual.agda:16]: It's actually worth putting many `using` on all these `open`, as that makes the interface much smaller. Seems to have a positive influence on downstream typechecking too.

File: src/Categories/Category/Monoidal/Rigid/Dual.agda [hunk 5]
```diff
@@ -0,0 +1,444 @@
...
+      (id ⊗₁ capᵀ cap) ∘ (id ⊗₁ cupᵀ cup) ∘ η    ≈⟨ refl⟩∘⟨ cupᵀ-η cup ⟩
+      (id ⊗₁ capᵀ cap) ∘ cup                     ≈⟨ capᵀ-cup snakeᴰ ⟩
+      η                                          ∎
+
+  dual-uniqueˡ : A ≅ D ⁻¹
+  dual-uniqueˡ = record
+    { from = capᵀ cap
+    ; to   = cupᵀ cup
+    ; iso  = record
+      { isoˡ = cupᵀ-capᵀ ○ snakeᴬ
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Rigid/Dual.agda]: There proofs should be put into an `abstract` `where` clause. That is the kind of stuff that with eta  records blows things up downstream.

File: src/Categories/Category/Monoidal/Rigid/Functor.agda [hunk 6]
```diff
@@ -0,0 +1,71 @@
+{-# OPTIONS --without-K --safe --lossy-unification #-}
+-- --lossy-unification makes this typecheck in ~3s instead of ~90s
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Rigid/Functor.agda]: Same advice as before.

File: src/Categories/Category/Monoidal/Rigid/Functor.agda [hunk 7]
```diff
@@ -0,0 +1,71 @@
...
+  variable
+    X Y : Obj
+
+  ⊗-homo :
+    MonoidalCategory.⊗ C-op-reverse ∘F (dualFunctor ⁂ dualFunctor)
+    ≃ dualFunctor ∘F MonoidalCategory.⊗ C-monoidal
+  ⊗-homo = niHelper record
+    { η       = λ (X , Y) → ⁻¹-flip-⊗⁻¹ {X} {Y}
+    ; η⁻¹     = λ (X , Y) → ⁻¹-flip-⊗ {X} {Y}
+    ; commute = λ (f , g) → ⁻¹-flip-⊗⁻¹-natural
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Rigid/Functor.agda]: No need to name or even pattern-match on the arguments here

File: src/Categories/Category/Monoidal/Rigid/Properties.agda [hunk 8]
```diff
@@ -0,0 +1,556 @@
...
+
+module Categories.Category.Monoidal.Rigid.Properties
+    {o ℓ e} {C : Category o ℓ e} (M : Monoidal C) where
+
+import Categories.Category.Monoidal.Rigid M as Rigid
+open Rigid using (LeftRigid; RightRigid)
+import Categories.Category.Monoidal.Rigid as RigidModule
+import Categories.Category.Monoidal.Rigid.Dual as RigidDual
+
+open import Categories.Category.Monoidal.Reasoning M
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Rigid/Properties.agda]: `using` on as many of these as possible

File: src/Categories/Category/Monoidal/Rigid/Properties.agda [hunk 9]
```diff
@@ -0,0 +1,556 @@
...
+    -- `ε`, with `k` run along its wire first.
+    capₖ : {k : Y ⇒ X} → X ⁻¹ ⊗₀ Y ⇒ unit
+    capₖ {k = k} = ε ∘ (id ⊗₁ k)
+
+    unit-cap-natural :
+      λ⇒ {X = unit ⊗₀ unit} ∘ (id {unit} ⊗₁ λ⇐ {X = unit})
+      ≈ λ⇐ {X = unit} ∘ λ⇒ {X = unit}
+    unit-cap-natural = unitorˡ-commute-from
+
+    unit-snakeˡ :
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Rigid/Properties.agda]: wonder what would happen if you made both these unit-snake `abstract`.

File: src/Categories/Category/Monoidal/Rigid/Properties.agda [hunk 10]
```diff
@@ -0,0 +1,556 @@
...
+      ≈⟨ refl⟩∘⟨ pullˡ (⟺ serialize₂₁) ⟩
+    α⇐ ∘ (f ⊗₁ (g ⊗₁ id)) ∘ (id ⊗₁ cupˡ) ∘ η
+      ≈⟨ extendʳ assoc-commute-to ⟩
+    ((f ⊗₁ g) ⊗₁ id) ∘ ⊗-cup                            ∎
+
+  -- `⊗-cup`/`⊗-cap` exhibit `[ X ⊗ Y ]⁻¹` as *a* dual of `X ⊗₀ Y`, and `η`/`ε`
+  -- exhibit `(X ⊗₀ Y) ⁻¹` as *the* chosen one.  Duals are unique up to canonical
+  -- iso, so the two are isomorphic — transpose one pair's cap along the other's.
+
+  ⁻¹-flip-⊗ : [ X ⊗ Y ]⁻¹ ⇒ (X ⊗₀ Y) ⁻¹
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Rigid/Properties.agda]: At uses of these, you always need to make X and Y explicit, so you should make them so here. Then at some use site, you can just do `curry ⁻¹-flip-⊗`

File: src/Categories/Category/Monoidal/Rigid/Properties.agda [hunk 11]
```diff
@@ -0,0 +1,556 @@
...
+  private
+    cupˡ-core : A ⊗₀ B ⇒ Y ⊗₀ ((Y ⁻¹ ⊗₀ A) ⊗₀ B)
+    cupˡ-core = α⇒ ∘ (α⇒ ⊗₁ id) ∘ ((η ⊗₁ id) ⊗₁ id) ∘ (λ⇐ ⊗₁ id)
+
+    cupˡ-core-open : α⇒ ∘ (cupˡ {X = Y} {A} ⊗₁ id {B}) ≈ cupˡ-core
+    cupˡ-core-open = refl⟩∘⟨ split₁³
+
+    -- `cupˡ` is natural in `k`: walk `k` down the cup's three factors, past the
+    -- associator, through the cup itself, and out along the unitor.
+    cupˡ-natural : {k : A ⇒ B} →
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Rigid/Properties.agda]: I'm thinking most of the morphism equivalences could be `abstract`.

File: src/Categories/Category/Monoidal/Rigid/Symmetry.agda [hunk 12]
```diff
@@ -0,0 +1,396 @@
...
+    (σ⇒ ⊗₁ id) ∘ ⊗-cup                         ≈⟨ tensor-cup-braiding ⟩
+    (id ⊗₁ σ⇒) ∘ ⊗-cup                         ≈˘⟨ refl⟩∘⟨ cupᵀ-η ⊗-cup ⟩
+    (id ⊗₁ σ⇒) ∘ (id ⊗₁ ⁻¹-flip-⊗⁻¹) ∘ η     ≈⟨ pullˡ merge₂ˡ ⟩
+    (id ⊗₁ (σ⇒ ∘ ⁻¹-flip-⊗⁻¹)) ∘ η           ∎)
+
+  ⁻¹⁻¹≅ : (X ⁻¹) ⁻¹ ≅ X
+  ⁻¹⁻¹≅ = ≅.sym (dual-uniqueˡ (σ⇒ ∘ η) (ε ∘ σ⇒)
+                              (braid-snakeʳ snake₂) (braid-snakeˡ snake₁))
+
+  private
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Rigid/Symmetry.agda]: These seem like duplicated definitions from another file. Pull them out so they can be re-used.

File: src/Categories/Category/Monoidal/Rigid/Symmetry.agda [hunk 13]
```diff
@@ -0,0 +1,396 @@
...
+  double-dual-on-morphisms {Y = Y} f = switch-fromtoˡ (⁻¹⁻¹≅ {X = Y}) (double-dual-natural f)
+
+module DoubleDualʳ (R : RightRigid M) where
+  open RightRigid R using (_⁻¹; dual₁)
+
+  private
+    module L = LeftRigid (right⇒left R)
+    module D = RigidDual M (right⇒left R)
+
+  ⁻¹⁻¹≅ : (X ⁻¹) ⁻¹ ≅ X
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Rigid/Symmetry.agda]: Ditto

File: src/Categories/Category/Monoidal/Symmetric/Properties.agda [hunk 14]
```diff
@@ -29,6 +37,36 @@ braiding-selfInverse = introʳ commutative ○ cancelˡ (braiding.iso.isoˡ _)
 inv-commutative : ∀ {X Y} → braiding.⇐.η (X , Y) ∘ braiding.⇐.η (Y , X) ≈ id
 inv-commutative = ∘-resp-≈ braiding-selfInverse braiding-selfInverse ○ commutative
 
+mirrorˡ : ∀ {X Y Z} → (id {X} ⊗₁ σ⇒ {Z} {Y}) ∘ σ⇐ {X} {Z ⊗₀ Y} ≈ σ⇒ ∘ (σ⇒ ⊗₁ id)
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Symmetric/Properties.agda:41]: Doesn't seem used anywhere?

File: src/Categories/Category/Monoidal/Reassociation.agda [hunk 15]
```diff
@@ -23,32 +23,395 @@ open MR 𝒞
...
-pentagon-assoc
-  : α⇒ {A ⊗₀ B} {C} {D} ∘ (α⇐ {A} {B} {C} ⊗₁ id) ∘ α⇐ {A} {B ⊗₀ C} {D}
-    ≈ α⇐ {A} {B} {C ⊗₀ D} ∘ (id ⊗₁ α⇒ {B} {C} {D})
-pentagon-assoc = begin
-  α⇒ ∘ (α⇐ ⊗₁ id) ∘ α⇐                                 ≈⟨ refl⟩∘⟨ insertʳ (⊗-cancel identity² associator.isoˡ) ⟩
-  α⇒ ∘ (((α⇐ ⊗₁ id) ∘ α⇐) ∘ (id ⊗₁ α⇐)) ∘ (id ⊗₁ α⇒)   ≈⟨ refl⟩∘⟨ pentagon-inv ⟩∘⟨refl ⟩
-  α⇒ ∘ (α⇐ ∘ α⇐) ∘ (id ⊗₁ α⇒)                          ≈⟨ refl⟩∘⟨ assoc ⟩
-  α⇒ ∘ α⇐ ∘ α⇐ ∘ (id ⊗₁ α⇒)                            ≈⟨ cancelˡ associator.isoʳ ⟩
-  α⇐ ∘ (id ⊗₁ α⇒)                                      ∎
+-- Opening a cup beside a spectator wire, and closing a cap beside one.  A cup
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Reassociation.agda]: Why put all of these things in `Monoidal.Reassociation`? Wouldn't a `Monoidal.CupCap` (or something similar) be better?

File: src/Categories/Category/Monoidal/Reassociation.agda [hunk 16]
```diff
@@ -23,32 +23,395 @@ open MR 𝒞
...
+unit-conjˡ f = α⇒ ∘ f ∘ λ⇐
+
+unit-conjʳ : (D ⊗₀ unit ⇒ A ⊗₀ (B ⊗₀ C)) → (D ⇒ (A ⊗₀ B) ⊗₀ C)
+unit-conjʳ f = α⇐ ∘ f ∘ ρ⇐
 
-λ⇒-assoc : (λ⇒ {A} ⊗₁ id {B}) ∘ α⇐ {unit} {A} {B} ≈ λ⇒
+-- Peel the last factor off a right-nested composite.  (`assoc²εβ` is the
+-- four-factor case; these are the five- and six-factor ones.)
+
+reassoc-tail₅ : {f : E ⇒ X} {g : D ⇒ E} {h : C ⇒ D} {i : B ⇒ C} {j : A ⇒ B} →
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Reassociation.agda]: This belongs in `Reasoning`, not here. Plus this is a push/pull one-liner!

File: src/Categories/Category/Monoidal/Reassociation.agda [hunk 17]
```diff
@@ -23,32 +23,395 @@ open MR 𝒞
...
 ρ⇒-assoc = ⟺ (switch-fromtoʳ associator coherence₂)
 
-ρ⇐-assoc : id {A} ⊗₁ ρ⇐ {B} ≈ α⇒ ∘ ρ⇐ {A ⊗₀ B}
+ρ⇐-assoc : id {A} ⊗₁ ρ⇐ {B} ≈ α⇒ ∘ ρ⇐
 ρ⇐-assoc = begin
   id ⊗₁ ρ⇐                 ≈˘⟨ cancelˡ associator.isoʳ ⟩
   α⇒ ∘ (α⇐ ∘ (id ⊗₁ ρ⇐))   ≈⟨ refl⟩∘⟨ coherence-inv₂ ⟩
   α⇒ ∘ ρ⇐                  ∎
+
+triangle-invʳ : α⇒ {A} {unit} {Z} ∘ (ρ⇐ ⊗₁ id) ≈ id ⊗₁ λ⇐
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Reassociation.agda]: Are you sure this doesn't exist somewhere already? Looks awfully familiar.

File: src/Categories/Category/Monoidal/Reassociation.agda [hunk 18]
```diff
@@ -23,32 +23,395 @@ open MR 𝒞
...
+  (id ⊗₁ cap-closeʳ cap) ∘ (id ⊗₁ α⇒) ∘ α⇒         ≈⟨ pullˡ merge₂ˡ ⟩
+  (id ⊗₁ (cap-closeʳ cap ∘ α⇒)) ∘ α⇒               ∎
+
+------------------------------------------------------------------------
+-- Caps and cups against the associator.
+
+-- Distribute a three-fold composite through a whiskering.  Read backwards, these
+-- fold three whiskered factors back under one `_ ⊗₁ id` / `id ⊗₁ _`.
+
+split₁³ : {f : C ⇒ D} {g : B ⇒ C} {h : A ⇒ B} →
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Reassociation.agda]: Belongs with the other `split` combinators, not here

File: src/Categories/Category/Monoidal/Rigid.agda [hunk 19]
```diff
@@ -43,6 +43,18 @@ record LeftRigid : Set (levelOfTerm M) where
              ≈ id
              ⟩
 
+  infix 4 [_⊗_]⁻¹
+
+  -- Dual of a tensor product on objects. Rigid.Properties.Left proves that this
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Rigid.agda]: What uses `LeftRigid` definitions here? This one, and the one in `RightRigid` look identity.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
I would have preferred more, smaller PRs where things are staged more incrementally. I can get to review those PRs more quickly -- large ones like this tend to sit around longer until I have a big enough time slot.

**Comment by LionOfJewdah** [comment]
Hi Jacques,

Thank you for the careful review. I will get to this later tonight or this week. If you like, I can split it into multiple PRs. For example, I'm sure the braided + symmetric + traced properties could be their own self-contained PR.
I have a branch stacked on this (not a PR yet) that builds the JSV trace of a compact closed category. Off the top of my head I'm not sure how much of the dual calculus from the current PR it actually uses. I'll take a look at that too

**Comment by JacquesCarette** [comment]
If you could do it incrementally, I would appreciate that. Also, this is round 1: I've seen a bunch of proofs that could be shortened, but wanted to do that in a second pass.

File: src/Categories/Category/Monoidal/Rigid/Properties.agda (hunk 11 above)
Comment (LionOfJewdah) [reply src/Categories/Category/Monoidal/Rigid/Properties.agda]: Good to know I can use `abstract` for contributions to this repo. I didn't see a lot here. For personal projects I use `abstract` pretty aggressively when I know I just need a proof and not a computation. Lesson learned: dealing with monoidal functors and natural transformations is an eta explosion.

**Comment by LionOfJewdah** [comment]
@JacquesCarette split this into 3 PRs (this is now the middle). The base is #539; the top is #540.

**Comment by JacquesCarette** [comment]
We didn't know we should have used `abstract` when we wrote a lot of the library! That's why there are so few.

We really should go back and add a lot. I just have not had the time to do it.

**Comment by JacquesCarette** [comment]
Can you rebase this PR to actually be on top of [LionOfJewdah:feat/monoidal-constructions-and-reasoning](https://github.com/LionOfJewdah/agda-categories/tree/feat/monoidal-constructions-and-reasoning), so that the diff is only 'the middle' ?

**Comment by LionOfJewdah** [comment]
Hi Jacques, I couldn't figure out how to do the rebase so it would only show this PR's diff as relative to #539. I will try further, but I think the issue is that the branch [LionOfJewdah:feat/monoidal-constructions-and-reasoning](https://github.com/LionOfJewdah/agda-categories/tree/feat/monoidal-constructions-and-reasoning) only exists on my fork and I can't target this PR in this repo/checkout/origin onto a fork-only branch (even though the branch this PR is on is in fact a child branch of `LionOfJewdah:feat/monoidal-constructions-and-reasoning` on the fork). GitHub documents owner-qualified branch comparisons across forks separately from changing an existing PR’s base branch. [Comparing commits](https://docs.github.com/en/pull-requests/committing-changes-to-your-project/viewing-and-comparing-commits/comparing-commits), [changing a PR base](https://docs.github.com/en/pull-requests/how-tos/create-pull-requests/changing-the-base-branch-of-a-pull-request).

**Comment by JacquesCarette** [comment]
Ok, I'll try to see what I can do on my end.

**Comment by JacquesCarette** [comment]
Still awkward. Let's simply proceed PR by PR, so focus on #539 in first. Once it is merged, the other PRs will have a smaller diff "naturally".

**Comment by LionOfJewdah** [comment]
I see that stdlib is deprecating `_≈˘⟨_⟩_` in favor of `_≈⟨_⟨_` form. Should I prefer the `≈⟨...⟨` form in the future or stay with `≈˘⟨...⟩` since that's what this library usually uses?

**Comment by JacquesCarette** [comment]
I've warmed up to the `stdlib` version, so go ahead and start using it. The rest of `agda-categories` can be retrofitted incrementally, later.

**Comment by LionOfJewdah** [comment]
I'm planning to also split this PR in two to make it easier for you to review, Jacques. I'll try to keep contributions below 1,000 LOC (ideally, 800 or less)

**Comment by LionOfJewdah** [comment]
Jacques, I have split the former integrated #538 into two review layers.

#538 now contains the core dual calculus: cups, caps, transposes, mates, dual
morphisms, rigidity conversion under symmetry, and agreement of left and right
dualization.

Tensor-product dual coherence and the symmetric double-dual isomorphism have
moved to the stacked `feat/rigid-tensor-and-double-dual-coherence` branch. No
results were dropped; this only narrows #538’s review scope. The force-push will
rewrite its commit and invalidate old line anchors.

I have not yet opened a PR for `feat/rigid-tensor-and-double-dual-coherence` since I have enough in flight at the moment, but when I do, it will contain work that was originally in this PR and will need to be merged before #540.

**Review by JacquesCarette — APPROVED** [review]
